US04061759
A mixture of 1.23 g. of 2-methyl-3-hydroxy-4-hydroxymethylpyridine-5-acrylic acid, 1 g. of sodium metal, 5 ml. of carbon disulfide, and 75 ml. of absolute ethanol was refluxed for 26 hours. Concentrated hydrochloric acid (3 ml.) was added and the mixture was evaporated to dryness. The residue was extracted with 125 ml. of boiling ethanol and filtered hot. Evaporation of the extract gave a syrup which was crystallized from chloroform-ether to give 2-methyl-3-hydroxy-4-mercaptomethylpyridine-5-acrylic acid hydrochloride, m.p. 227°-228° C.

reactant | 2-methyl-3-hydroxy-4-hydroxymethylpyridine-5-acrylic acid | CC1=NC=C(C(=C1O)CO)C=CC(=O)O | C10H11NO4
reactant | sodium | [Na] | Na
reactant | carbon disulfide | C(=S)=S | CS2
reactant | hydrochloric acid | 3 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 2-methyl-3-hydroxy-4-mercaptomethylpyridine-5-acrylic acid hydrochloride | Cl.CC1=NC=C(C(=C1O)CS)C=CC(=O)O | InChI=1S/C10H11NO3S.ClH/c1-6-10(14)8(5-15)7(4-11-6)2-3-9(12)13;/h2-4,14-15H,5H2,1H3,(H,12,13);1H
